US05922886
1.1. 1-(4-Chlorophenyl)pyrazolidin-3-one
90 g (0.9 mol) of ethyl acrylate are added dropwise at 40°-45° C. to a mixture of 15.9 g (234 mmol) of sodium ethoxide, 110 ml of ethanol, 110 ml of toluene and 25.7 g (180 mmol) of 4-chlorophenylhydrazine and the mixture is subsequently stirred for 1 hour at 40° C. The reaction mixture is evaporated to 100 ml and the residue is taken up in water. The resulting mixture is washed a number of times with toluene and the combined organic phases are extracted with 5% strength NaOH. The combined aqueous phases are adjusted to a pH of 6.5 and cooled to 10° C. The solid formed is filtered off with suction, washed with water and dried under reduced pressure.

reactant | ethyl acrylate | 0.9 mol, 90 g | C(C=C)(=O)OCC | C5H8O2
reactant | sodium ethoxide | 234 mmol, 15.9 g | [O-]CC.[Na+]
reactant | ethanol | 110 ml | C(C)O | C2H6O
reactant | 4-chlorophenylhydrazine | 180 mmol, 25.7 g | ClC1=CC=C(C=C1)NN | C6H7ClN2
solvent | toluene | 110 ml | C1(=CC=CC=C1)C | C7H8
product | 1-(4-Chlorophenyl)pyrazolidin-3-one | ClC1=CC=C(C=C1)N1NC(CC1)=O | C9H9ClN2O
